US05767131
4-(4-Methoxyphenyl)-4-phenylpiperidine
4-Hydroxy-4-phenylpiperidine (5.00 g, 28.2 mol, 1.00 equiv, Aldrich) was added to a suspension of AlCl3 (18.8 g, 141 mmol, 5.00 equiv) in anhydrous anisole (100 mL). The mixture was stirred at room temperature for 1 hour and then heated to 50° C. for 3.5 hours. It was cooled to room temperature and poured cautiously into ice-water. The mixture was basified to pH 11 by addition of 6M aqueous NaOH, and extracted with EtOAc (3×75 mL). The combined organic solutions were applied directly to a flash chromatography column, which was eluted with CH2Cl2 -NH3 in MeOH (0.67M), 4:1 to afford 1.683 g (22%) of light yellow oil, which was characterized spectroscopically.

reactant | 4-Hydroxy-4-phenylpiperidine | 28.2 mol, 5.00 g, 1.00 equiv | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | AlCl3 | 141 mmol, 18.8 g, 5.00 equiv | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaOH | 6M | [OH-].[Na+]
reactant | anisole | 100 mL | C1(=CC=CC=C1)OC | C7H8O
product | 4-(4-Methoxyphenyl)-4-phenylpiperidine | COC1=CC=C(C=C1)C1(CCNCC1)C1=CC=CC=C1 | C18H21NO
